US09169242B2
Step 1: 3-Bromo-4-methylbenzaldehyde oxime:
To a stirred suspension of 3-bromo-4-methylbenzaldehyde (1.0 g, 5 mmol, 1.0 eq) in methanol (50 mL) was added a solution hydroxylamine hydrochloride (434 mg, 6.3 mmol, 1.2 eq) in water (2 mL) at room temperature. The resulting solution was cooled to 0° C. and then treated with an aqueous solution of sodium carbonate (2M, 2 mL). After stirring for 1 h at room temperature, the solvent was removed under vacuum. The residue was taken into ethyl acetate (20 mL) and water (10 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate (2×20 mL). The combined organic layers were washed with brine (15 mL), dried (Na2SO4) and filtered. The filtrate was evaporated under vacuum to afford 0.85 g of the title product as a white solid. 1HNMR (400 MHz, CDCl3) δ 8.08 (s, 1H), 7.87 (s, 1H, D2O exchangeable) 7.76 (d, J=1.5 Hz, 1H), 7.43 (dd, J=8.0 Hz, 1H), 7.27 (d, J=8.0 Hz, 1H), 2.44 (s, 3H); ESI-MS (m/z) 214, 216 [(MH)+, Br79,81].

reactant | 3-bromo-4-methylbenzaldehyde | 5 mmol, 1.0 g, 1.0 eq | BrC=1C=C(C=O)C=CC1C | C8H7BrO
reactant | hydroxylamine hydrochloride | 6.3 mmol, 434 mg, 1.2 eq | Cl.NO
reactant | sodium carbonate | 2M, 2 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 50 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 3-Bromo-4-methylbenzaldehyde oxime | 0.85 g | BrC=1C=C(C=NO)C=CC1C | C8H8BrNO
